US06103708
(2-Naphthalen-2-ylmethyl-4,5-dimethyl-furan-3-yl)-(3,5-diisoproyl-4-methoxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 2 using 3,5-diisopropyl-p-anisic acid (0.93 g, 3.95 mmol, RN-117439-59-5), oxalyl chloride (0.377 mL, 4.33 mmol), N,N-dimethylformamide (2 drops), tin (IV) chloride (0.507 mL, 4.33 mmol) and 2-naphthalen-2-ylmethyl-4,5-dimethylfuran (0.93 g, 3.94 inmol) in CH2Cl2. Purification on Biotage KP-Sil eluting with a 2 & 4% EtOAc/pet. ether step gradient gave 0.357 g (20%) of the title compound. 1H NMR (DMSO-d6) δ 1.14 (d, 12 H), 1.82 (s, 3 H), 2.20 (s, 3 H), 3.27 (septet, 2 H), 3.74 (s, 3 H), 4.02 (s, 2 H), 7.19 (dd, 1 H), 7.45-7.52 (m, 5 H), 7.76-7.79 (m, 3 H).

reactant | 3,5-diisopropyl-p-anisic acid | 3.95 mmol, 0.93 g | C(C)(C)C=1C=C(C(=O)O)C=C(C1OC)C(C)C | C14H20O3
reactant | oxalyl chloride | 4.33 mmol, 0.377 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tin (IV) chloride | 4.33 mmol, 0.507 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-naphthalen-2-ylmethyl-4,5-dimethylfuran | 0.93 g | C1=C(C=CC2=CC=CC=C12)CC=1OC(=C(C1)C)C | C17H16O
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2-Naphthalen-2-ylmethyl-4,5-dimethyl-furan-3-yl)-(3,5-diisoproyl-4-methoxy-phenyl)-methanone | 0.357 g, 20% | C1=C(C=CC2=CC=CC=C12)CC=1OC(=C(C1C(=O)C1=CC(=C(C(=C1)C(C)C)OC)C(C)C)C)C | C31H34O3
